US05219871
Preparation of 1-cyano-1,1-diphenyl-3-[N-(4-fluorophenethyl)-N-methylamino]propane
A mixture containing 3-bromo-1,1-diphenylpropane (1.5 g-see Preparation 4), N-methyl-4-fluorophenethylamine (0.766 g-see CA 80:PIZ0985y), anhydrous potassium carbonate (1.38 g) and acetonitrile (50 ml) was heated under reflux for 24 hours then concentrated in vacuo. The residue was dissolved in water (40 ml) and extracted with dichloromethane (3×50 ml). The combined dichloromethane extracts were dried (Na2SO4) and concentrated in vacuo to give a gum which was purified by column chromatography on silica eluting with hexane containing dichloromethane (25% up to 100%) and then with dichloromethane containing methanol (0% up to 3%). The product-containing fractions were combined and concentrated in vacuo to give the title compound as a gum, yield, 0.51 g.

reactant | 3-bromo-1,1-diphenylpropane | 1.5 g | BrCCC(C1=CC=CC=C1)C1=CC=CC=C1 | C15H15Br
reactant | N-methyl-4-fluorophenethylamine | 0.766 g | CNCCC1=CC=C(C=C1)F | C9H12FN
reactant | potassium carbonate | 1.38 g | C([O-])([O-])=O.[K+].[K+]
reactant | acetonitrile | 50 ml | C(C)#N | C2H3N
product | 1-cyano-1,1-diphenyl-3-[N-(4-fluorophenethyl)-N-methylamino]propane | C(#N)C(CCN(C)CCC1=CC=C(C=C1)F)(C1=CC=CC=C1)C1=CC=CC=C1 | C25H25FN2
